US07691874B2
Preparation of 3-benzyloxycarbonyloxy-N-(benzyloxycarbonyl)morphinan 27
To a stirred solution of 3-hydroxymorphinan (5 mg, 0.015 mmol) and triethylamine (13 μL, 0.091 mmol) in dry dichloromethane (0.3 mL) was added benzyl chloroformate (5.2 μL, 0.036 mmol) at 0° C. The reaction mixture was stirred for 2 h at room temperature. After starting material disappeared on TLC, solvent was removed and column chromatography gave 6.3 mg (80%) of title compound: 1H NMR (300 MHz, CDCl3) δ7.3˜7.6 (10H, m); 7.0 (2H, m); 6.9 (1H, m); 5.3 (2H, s); 5.1 (2H, s); 4.3 (1H, dd); 3.9 (1H, m); 3.1 (1H, m); 2.7 (2H, d); 2.3 (1H, m); 1.0˜1.8 (10H, m).

reactant | 3-hydroxymorphinan | 0.015 mmol, 5 mg | OC=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3 | C16H21NO
reactant | triethylamine | 0.091 mmol, 13 μL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.036 mmol, 5.2 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
product | 3-benzyloxycarbonyloxy-N-(benzyloxycarbonyl)morphinan | 6.3 mg, 80% | C(C1=CC=CC=C1)OC(=O)OC=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C(=O)OCC3=CC=CC=C3 | C32H33NO5
